US09290468B2
Step 3: 1-(2,3-dihydroxypropyl)-N-(4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazol-6-yl)cyclopropane-1-sulfonamide
To a solution of 1-allyl-N-(4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazol-6-yl)cyclopropane-1-sulfonamide (50 mg, 0.09 mmol) in THF (5 mL) was added N-methylmorpholine-N-oxide (11 mg, 0.09 mmol) followed by osmium tetraoxide (3 mg, 0.01 mmol) and water (0.5 mL). The resultant was stirred at room temperature overnight. The mixture was concentrated and then diluted with ethyl acetate. The organic layer was washed with water, saturated NaHCO3 (aq.) and brine sequentially, dried over Na2SO4, filtered and concentrated to give a residue, which was purified by flash chromatography on silica gel to give the product as white solid (20 mg, 37.7% yield). 1H NMR (400 MHz, CDCl3): δ 8.68 (s, 1H), 7.98 (s, 1H), 7.90 (d, 1H), 7.75 (d, 1H), 7.45 (m, 1H), 6.81 (s, 1H), 6.66 (s, 1H), 4.42-4.28 (m, 2H), 4.21-4.12 (m, 1H), 3.76-3.62 (m, 1H), 3.60-3.50 (m, 1H), 2.62-2.50 (m, 2H), 0.92-0.80 (m, 4H). MS APCI (+) m/z: 582.5 [M+H].

reactant | 1-allyl-N-(4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazol-6-yl)cyclopropane-1-sulfonamide | 0.09 mmol, 50 mg | C(C=C)C1(CC1)S(=O)(=O)NC1=CC2=C(N=CS2)C(=C1NC1=C(C=C(C=C1)I)F)F | C19H16F2IN3O2S2
reactant | N-methylmorpholine-N-oxide | 0.09 mmol, 11 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 0.5 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | osmium tetraoxide | 0.01 mmol, 3 mg | [Os](=O)(=O)(=O)=O
product | 1-(2,3-dihydroxypropyl)-N-(4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazol-6-yl)cyclopropane-1-sulfonamide | 20 mg, 37.7% yield | OC(CC1(CC1)S(=O)(=O)NC1=CC2=C(N=CS2)C(=C1NC1=C(C=C(C=C1)I)F)F)CO | C19H18F2IN3O4S2
